US05981533
In order to remove residual water, some solvent is distilled off from a suspension of 75.8 g (216 mmol) of 3-benzylamino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine in 1.5 liters of benzene. Then, with exclusion of moisture, the suspension is introduced into 84 g of aluminum chloride (Fluka, Buchs/Switzerland) in 500 ml of benzene. The reaction mixture is heated at 80° C. for 2.5 hours and then cooled to RT. The supernatant benzene phase is poured into 2 kg of ice-water (leaving behind a green, oily residue) and the solid that precipitates is filtered with suction and rinsed thoroughly with water (→K1). Using a rotary evaporator, the benzene is evaporated off from the filtrate, and the aqueous phase that remains is added, together with 1 kg of ice, to the green, oily residue and hydrolysis is carried out for 2 hours at 40° C. The crystalline product is filtered with suction and rinsed with water (→K2). K1 and K2 are taken up in 1 liter of methanol, acidified with 4N aqueous HCl and partially concentrated by evaporation. Water is added and the methanol is evaporated off completely. The crystals are filtered off and rinsed with water. The same purification procedure is repeated with semi-saturated Na2CO3 solution/methanol and water/methanol. Stirring at 50° C. in methanol, precipitation with diethyl ether, filtering and drying yield 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine; m.p. 232-234° C.; TLC: Rf =0.50 (ethyl acetate).

reactant | 3-benzylamino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | 216 mmol, 75.8 g | C(C1=CC=CC=C1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C18H15ClN6
reactant | aluminum chloride | 84 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 1.5 liters | C1=CC=CC=C1 | C6H6
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
